US04205166
To a solution of 1-(2-aminoethyl)-1H-tetrazole-5-thiol hydrochloride (1.82 g.), t-butoxycarbonylazide (2.86 g.), water (20 ml.) and dioxane (20 ml.) was added triethylamine (6.0 g.), and the mixture was stirred at room temperature for one hour. After dioxane was removed therefrom under reduced pressure, the residue was adjusted to pH 7.5 to 8.0 with 5% aqueous solution of sodium bicarbonate and washed twice with ether. The resultant solution was adjusted to pH 1 with 5% hydrochloric acid and extracted three times with ethyl acetate (each 50 ml.). The extract was washed with an aqueous saturated solution of sodium chloride, dried over magnesium sulfate and then concentrated under reduced pressure to give 1-(2-t-butoxycarbonylaminoethyl)-1H-tetrazole-5-thiol (2.05 g.), m.p. 117° to 120° C. (dec.).

reactant | 1-(2-aminoethyl)-1H-tetrazole-5-thiol hydrochloride | 1.82 g | Cl.NCCN1N=NN=C1S
reactant | t-butoxycarbonylazide | 2.86 g | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
reactant | water | 20 ml | O | H2O
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | triethylamine | 6.0 g | C(C)N(CC)CC | C6H15N
product | 1-(2-t-butoxycarbonylaminoethyl)-1H-tetrazole-5-thiol | 2.05 g | C(C)(C)(C)OC(=O)NCCN1N=NN=C1S | C8H15N5O2S
